US07368578B2
A mixture of {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-phenylbenzyl)oxy]-1H-pyrazol-4-yl}methanol (0.20 g), activated manganese dioxide (0.60 g) and tetrahydrofuran (10 mL) was stirred at room temperature for 5 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-phenylbenzyl)oxy]-1H-pyrazole-4-carbaldehyde (0.19 g, yield 95%). Recrystallization from ethyl acetate-hexane gave colorless needle crystals. melting point: 122-123° C.

reactant | {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-phenylbenzyl)oxy]-1H-pyrazol-4-yl}methanol | 0.20 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C1=CC=CC=C1 | C33H29N3O5
catalyst | manganese dioxide | 0.60 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-phenylbenzyl)oxy]-1H-pyrazole-4-carbaldehyde | 0.19 g, yield 95% | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C1=CC=CC=C1 | C33H27N3O5
